US07795436B2
cis-8-(2,4-Dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one
The title compound was prepared as a white solid (69 mg, 0.21) by following the procedure step A of example 4 from cis-3-benzyl-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one (90 mg, 0.21 mmol) and Pd(OH)2 (18 mg, 20 wt %) in MeOH (3.0 mL): MS (ES) 332.1 (M+H).

reactant | cis-3-benzyl-8-(2,4-dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | 0.21 mmol, 90 mg | C(C1=CC=CC=C1)N1CC[C@H]2C(C3=C(C=CC=C3[C@H]2C1)C1=C(C=C(C=C1)Cl)Cl)=O | C25H21Cl2NO
solvent | MeOH | 3.0 mL | CO | CH4O
catalyst | Pd(OH)2 | 18 mg | [OH-].[OH-].[Pd+2]
product | cis-8-(2,4-Dichloro-phenyl)-1,2,3,4,4a,9a-hexahydro-3-aza-fluoren-9-one | ClC1=C(C=CC(=C1)Cl)C=1C=CC=C2[C@H]3CNCC[C@H]3C(C12)=O | C18H15Cl2NO
